Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram ___

 
History of Present Illness:
Mr. ___ is a ___ male who initially presented to ___ after a near syncopal episode today at work.

At ___, history was obtained through the use of a ___. The patient was noted to not been feeling well for a
couple of weeks after injuring his back 3 weeks ago.

He reported feeling not well at work, and felt very lightheaded
today and reportedly slumped to the ground without headstrike. 
He
reports that he felt his heart racing at times but denied on
multiple occasions feeling any chest pain or pressure.

The EKG performed in ___ found ST elevation in V2, abnormal
concavity of ST segments in V1 through V3 with no reciprocal
changes. His troponin T was noted to be elevated to .039. 
Heparin
gtt was started and he was transferred to ___ for evaluation 
of
possible ischemia. He also received 10 mg IV labetalol, ASA 325
x1.

In the ___..
- Initial vitals:
Pain 0 Temp 98.0 HR 90 BP 114/74 RR 16 pO2 98% RA 

- EKG: sinus, normal axis, normal intervals, no ST elevations or
depressions. Compared to EKG performed in ___ changes
in V1-v3 improved.

- Exam: 
General: NAD, resting in bed
Heart: RRR, no murmur
Lungs: CTAB
Extremities: no pitting edema.

- Labs/studies notable for:
Trop-T: 0.02 
Cr 1.6
CK 183, MB 4
H/H 12.___/38.4

- Patient was given:
___ 22:56 IV Heparin 1000 units/hr

- Vitals on transfer:
HR 74 BP 112/81 RR 20 pO2 99%  
 
On the floor, the patient endorses the history per above. The
patient started HCTZ on ___ and had lightheadedness after
each dose. He was at work when he felt very fast heart rate, low
blood pressure (measured), and dizziness, this was hours after
taking his HCTZ dose.

 
Past Medical History:
- Hypertension

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
================================
VS: 98.2 PO 113/75 R Lying 58 16 99 Ra 
GENERAL: NAD, well-appearing overweight man, lying back in bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVP elevation
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
LABS/MICRO reviewed in OMR.

DISCHARGE PHYSICAL EXAMINATION:
================================
VS: ___ 0724 Temp: 98.3 PO BP: 110/69 HR: 71 RR: 18 O2 sat:
97% O2 delivery: Ra 

GENERAL: NAD, well-appearing overweight man, lying back in bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVP elevation
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes or rhonchi
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: WWP, no edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

 
Pertinent Results:
ADMISSION LABS
===============
___ 11:10PM BLOOD WBC-9.2 RBC-4.50* Hgb-12.8* Hct-38.4* 
MCV-85 MCH-28.4 MCHC-33.3 RDW-12.9 RDWSD-39.8 Plt ___
___ 11:10PM BLOOD Neuts-66.4 ___ Monos-6.2 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-6.11* AbsLymp-2.37 AbsMono-0.57 
AbsEos-0.09 AbsBaso-0.04
___ 11:10PM BLOOD ___ PTT-65.3* ___
___ 11:10PM BLOOD Glucose-147* UreaN-15 Creat-1.6* Na-141 
K-3.6 Cl-103 HCO3-25 AnGap-13
___ 11:10PM BLOOD CK(CPK)-183
___ 11:10PM BLOOD CK-MB-4
___ 11:10PM BLOOD cTropnT-0.02*

PERTINENT/DISCHARGE LABS
==========================
___ 09:18AM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-108
___ 09:32AM BLOOD %HbA1c-6.0 eAG-126
___ 09:18AM BLOOD Triglyc-60 HDL-46 CHOL/HD-3.5 LDLcalc-104
___ 04:04AM BLOOD WBC-7.5 RBC-4.18* Hgb-12.2* Hct-35.0* 
MCV-84 MCH-29.2 MCHC-34.9 RDW-12.6 RDWSD-38.5 Plt ___
___:04AM BLOOD Glucose-112* UreaN-8 Creat-1.0 Na-140 
K-4.3 Cl-104 HCO3-25 AnGap-11

STUDIES/IMAGING
=================
___ TTE
Mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global biventricular systolic function. No 
clinically-significant valvular disease seen.

___ Coronary angiogram
1. Mild multivessel coronary atherosclerosis without 
angiographically apparent flow-limiting high grade
epicardial stenoses.
2. Diffuse slow and pulsatile flow consistent with microvascular 
dysfunction.
3. Tortous terminal branches suggestive of hypertensive heart 
disease.
4. Low left ventricular end diastolic pressure.
5. Cannot exclude transient coronary arrery vasospasm as the 
explanation for the patient's dynamic ECG
changes.
? type II myocardial injury from subendocardial ischemia from 
underlying left ventricular hypertrophy
with increased myocardial
 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
[] If recurrent severe chest pain and elevated troponins, 
consider further work up for coronary vasospasm.

[] Please monitor blood pressure and titrate antihypertensive 
accordingly.

[] The patient is being discharged on several new medications. 
Please ensure medication adherence given findings of 
microvascular dysfunction.

[] The patient was felt to be low risk for arrhythmia given 
overall reassuring coronary angiogram, however if having 
recurrent symptoms of chest pain or presycnope, consider 
outpatient cardiac monitoring.

SUMMARY
=================
Mr. ___ is a ___ male who initially presented to ___ with chest pain and a near sycnopal event, was found 
to have EGK changes and elevated troponin.

# CORONARIES: Multivessel coronary artherosclerosis without flow 
limiting obstruction
# PUMP: 55-60%
# RHYTHM: Sinus

ACUTE ISSUES
==================
# NSTEMI
The patient presented to ___ with chest pain and a near 
syncopal event and was found to have isolated ST elevations and 
elevated troponin. He was transferred to ___ for further 
management and possible urgent cardiac cath, but by the time of 
arrival to ___, his EKG changes resolved and troponins were 
downtrending. Lipid profile and A1c were checked and found to be 
within normal limits. He was started on a heparin and nitro drip 
along with aspirin, atorvastatin, and metoprolol. An echo showed 
left ventricular hypertrophy but normal global and regional 
systolic function. He underwent coronary angiogram on ___, 
which showed multivessel coronary atherosclerosis and evidence 
of microvascular dysfunction without angiographically apparent 
flow limiting stenosis. The cause for the patient's dynamic EKG 
changes was not clear, but possible etiologies could include 
transient coronary vasospasm vs type II injury from hypotension 
resulting in subendocardial ischemia in the setting of LVH. The 
patient was chest pain free on day of discharge. He was 
discharged on amlodipine for HTN and in case of vasospasm, as 
well as a beta blocker, statin, and aspirin for treatment of 
microvascular coronary artery disease. 

# Reported near-syncope
The patient reportedly felt light-headed at work and also with 
low blood pressure (measured) and palpitations. This was 
slightly concerning for possible arrhythmia, although he could 
also have been simply hypovolemic as suggested by mildly 
elevated Cr that improved with IVF. He had no further episodes 
of syncope, or symptoms of lightheadedness during this 
admission.

# ___
Cr was elevated on admission to 1.6, which improved w/ IV 
fluids. Renal function was trended daily.

CHRONIC ISSUES
====================
# HTN
The patient's home HCTZ was held. He was discharged on 
amlodipine for dual effect on hypertension and decrease risk for 
vasospasm.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until your doctor tells 
you to restart.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non occlusive coronary artery disease
Chest pain
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why were you admitted to the hospital?
- You were having chest pain.

What was done while you were in the hospital? 
- You were given medications to help your relieve your chest 
pain.
- You were given fluids through an IV.
- You underwent a procedure called a coronary angiogram to look 
at the vessels around your heart and determine if you had a 
heart attack. This showed that the blood vessels around your 
heart called "atherosclerosis," but it did not show that you had 
a heart attack.

What should you do when you go home?
- You should take all of your new medications as prescribed.
- Please follow up your outpatient doctors as discussed below.
- If you have chest pain again, please call a doctor right away.

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___